US04362728
A mixture of 2,2,2-trifluoroethyl isothiocyanate (0.68 g.) and 2-amino-4-[2-(2-cyano-3-methylguanidino)-ethylthiomethyl]thiazole (1.08 g.) in dimethylformamide (5 ml.) was maintained at 60° for 4 hours and then evaporated to dryness. The residue was recrystallised from acetonitrile to give 2-[3-(2,2,2-trifluoroethyl)thioureido]-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole, m.p. 157°-158°.

reactant | 2,2,2-trifluoroethyl isothiocyanate | 0.68 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | 2-amino-4-[2-(2-cyano-3-methylguanidino)-ethylthiomethyl]thiazole | 1.08 g | NC=1SC=C(N1)CSCCNC(=NC#N)NC | C9H14N6S2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[3-(2,2,2-trifluoroethyl)thioureido]-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole | FC(CNC(NC=1SC=C(N1)CSCCNC(=NC#N)NC)=S)(F)F | C12H16F3N7S3
